US07012084B2
Step B: Preparation of 1-(2-bromo-5-chlorophenyl)ethanone
Methylmagnesium bromide (4.26 mL of a 1.4M solution in tetrahydrofuran/toulene, 5.97 mmol) was added dropwise to a stirred solution of 2-bromo-5-chloro-N-methoxy-N-methylbenzamide (0.554 g, 1.99 mmol) in tetrahydrofuran (20 mL) at approximatately 0° C. After 1 h, 1N hydrochloric acid (5 mL) was added and the resulting biphasic mixture was stirred vigorously for about 10 min. The reaction mixture was poured into water and extracted three times with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. Purification of the crude residue by flash chromatography on silica gel (gradient elution; 0–10% ethyl acetate/hexanes as eluent) provided the title compound as a colorless oil.

reactant | Methylmagnesium bromide | C[Mg]Br
reactant | 2-bromo-5-chloro-N-methoxy-N-methylbenzamide | 1.99 mmol, 0.554 g | BrC1=C(C(=O)N(C)OC)C=C(C=C1)Cl | C9H9BrClNO2
reactant | hydrochloric acid | 1N, 5 mL | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-(2-bromo-5-chlorophenyl)ethanone | BrC1=C(C=C(C=C1)Cl)C(C)=O | C8H6BrClO
